US05594154
4-(4-Chlorophenylimino)-3,5,6-trimethyl-2-(2-methyl-2-propenyl)-2,5-cyclohexadien-1-one
Titanium tetrachloride (2.42 ml, 22.1 mmol) was added dropwise to a solution of pyridine (7.13 ml, 88.2 mmol) in 1,2-dichloroethane (40 ml) and, after completion of addition, the reaction mixture was heated under reflux minutes in an argon atmosphere. After cooling of the reaction mixture, to the mixture was added a solution of 3,5,6-trimethyl-2-(2-methyl-2-propenyl)-1,4-benzoquinone (3.00 g, 14.7 mmol) and p-chloroaniline (5.62 g, 44.1 mmol) in 1,2-dichloroenhane (20 ml) and the mixture was stirred 90° C. for 45 minutes in an argon atmosphere. The reaction mixture was cooled and filtered through Cerite and the filtrate was washed with a saturated saline solution, dried and concentrated. The residue was purified by silica gel column chromatography (hexane-ethyl acetate, 93:7) to obtain the desired compound as oil (4.43 g, yield: 96.0%).

reactant | pyridine | 88.2 mmol, 7.13 ml | N1=CC=CC=C1 | C5H5N
reactant | 3,5,6-trimethyl-2-(2-methyl-2-propenyl)-1,4-benzoquinone | 14.7 mmol, 3.00 g | CC1=C(C(C(=C(C1=O)C)C)=O)CC(=C)C | C13H16O2
reactant | p-chloroaniline | 44.1 mmol, 5.62 g | ClC1=CC=C(N)C=C1 | C6H6ClN
solvent | 1,2-dichloroethane | 40 ml | ClCCCl | C2H4Cl2
catalyst | Titanium tetrachloride | 22.1 mmol, 2.42 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 4-(4-Chlorophenylimino)-3,5,6-trimethyl-2-(2-methyl-2-propenyl)-2,5-cyclohexadien-1-one | 4.43 g, yield: 96.0% | ClC1=CC=C(C=C1)N=C1C(=C(C(C(=C1C)C)=O)CC(=C)C)C | C19H20ClNO
